US08227458B2
e) 7-Chloro-2-oxo-1,2,3,5-tetrahydro-benzo[1,4]diazepine-4-carboxylic acid tert-butyl ester
To a solution of [(2-amino-5-chloro-benzyl)-tert-butoxycarbonyl-amino]-acetic acid ethyl ester (60 g, 0.18 mol) in tetrahydrofuran (600 ml) was added potassium tert-butoxide (22 g, 0.19 mol) in small portions at 5° C. under cooling on an ice-water batch. After completed addition the cooling bath was removed and reaction mixture was stirred for 3 h at room temperature followed by addition of water (400 ml), saturated aqueous ammonium chloride solution (280 ml) and ethyl acetate (800 ml). After 10 min the precipitate was collected by filtration. The organic layer was separated from the filtrate, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was combined with the precipitate, which had previously been collected by filtration, and crystallized from hot ethyl acetate to give the title compound (46 g, 88%) as white solid.

reactant | [(2-amino-5-chloro-benzyl)-tert-butoxycarbonyl-amino]-acetic acid ethyl ester | 0.18 mol, 60 g | C(C)OC(CN(C(=O)OC(C)(C)C)CC1=C(C=CC(=C1)Cl)N)=O | C16H23ClN2O4
reactant | potassium tert-butoxide | 0.19 mol, 22 g | CC(C)([O-])C.[K+]
reactant | water | 400 ml | O | H2O
reactant | ammonium chloride | 280 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
product | 7-Chloro-2-oxo-1,2,3,5-tetrahydro-benzo[1,4]diazepine-4-carboxylic acid tert-butyl ester | 46 g, 88% | C(C)(C)(C)OC(=O)N1CC(NC2=C(C1)C=C(C=C2)Cl)=O | C14H17ClN2O3
